US06255285B1
To a solution of 205 mg (0.932 mmol) of Phe(3-tBu)-NH2, 351 mg (1.21 mmol) of Boc-Cha-OH, 164 mg (1.21 mmol) of HOBT and 148 mg (1.21 mmol) of DMAP in 4 ml of DMF, 232 mg (1.21 mmol) of WSCI.HCl was added under cooling with ice and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate and washed first with saturated aqueous NaHCO3, then with water and finally with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=2:1) to give Boc-Cha-Phe(3-tBu)-NH2 in the amount of 326 mg (74%).

reactant | Phe(3-tBu)-NH2 | 0.932 mmol, 205 mg | N[C@@H](CC1=CC(=CC=C1)C(C)(C)C)C(=O)N | C13H20N2O
reactant | Boc-Cha-OH | 1.21 mmol, 351 mg | N([C@@H](CC1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C14H25NO4
reactant | HOBT | 1.21 mmol, 164 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSCI.HCl | 1.21 mmol, 232 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 1.21 mmol, 148 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Cha-Phe(3-tBu)-NH2 | N([C@@H](CC1CCCCC1)C(=O)N[C@@H](CC1=CC(=CC=C1)C(C)(C)C)C(=O)N)C(=O)OC(C)(C)C | C27H43N3O4
